US09278951B2
Synthesis of 1,3-bis(quinolin-2-ylmethyl)-4,5-dichloroimidazolium chloride
4,5-Dichloroimidazole (2.00 g, 14.6 mmol) was dissolved in 15 mL acetonitrile in a round bottom flask. Potassium hydroxide (0.90 g, 16.0 mmol) was added and the mixture was refluxed for 15 min. Concurrently, 2-chloromethylquinoline hydrochloride (3.13 g, 14.6 mmol) and potassium hydroxide (0.82 g, 14.6 mmol) were added to a second round bottom flask and stirred in 60 mL acetonitrile at reflux for 10 min. The contents of the second flask were added to the first, and the combined mixture was refluxed overnight, during which time a white precipitate formed. The reaction mixture was filtered hot, yielding a clear, tan filtrate. Slow evaporation and cooling of the filtrate yielded tan crystals of 1-(quinolin-2-ylmethyl)-4,5-dichloroimidazole, which were collected by a second filtration. 2-Chloromethylquinoline hydrochloride (0.19 g, 0.88 mmol) and potassium hydroxide (0.05 g, 0.90 mmol) were added to 5 mL acetonitrile and refluxed for 30 min. Crystals of 1-(quinolin-2-ylmethyl)-4,5-dichloroimidazole (0.1087 g, 0.39 mmol) were added, and the mixture was refluxed overnight, during which time it became red in color and viscous. The residue was extracted with dichloromethane (2×10 mL) and the combined organic layers were dried with Mg2SO4. The volatile components were removed under reduced pressure yielding an oil. The oil was dissolved in water, and the solution was extracted with toluene (2×). The combined aqueous layer was collected and the solvent allowed to evaporate in air. A sticky brown solid was collected in low yield. 1H NMR (300 MHz, DMSO-d6) 10.03 (1H, s, NCHN), 8.55 (2H, d, Ar), 8.07 (2H, d, Ar), 7.89 (2H, d, Ar), 7.79 (2H, t, Ar), 7.74 (2H, d, Ar), 7.67 (2H, t, Ar), 6.07 (4H, s, CH2).

reactant | 2-Chloromethylquinoline hydrochloride | 0.88 mmol, 0.19 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | potassium hydroxide | 0.90 mmol, 0.05 g | [OH-].[K+]
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | 1-(quinolin-2-ylmethyl)-4,5-dichloroimidazole | 0.39 mmol, 0.1087 g | N1=C(C=CC2=CC=CC=C12)CN1C=NC(=C1Cl)Cl | C13H9Cl2N3
solvent | water | O | H2O
product | 1,3-bis(quinolin-2-ylmethyl)-4,5-dichloroimidazolium chloride | [Cl-].N1=C(C=CC2=CC=CC=C12)C[N+]1=CN(C(=C1Cl)Cl)CC1=NC2=CC=CC=C2C=C1 | InChI=1S/C23H17Cl2N4.ClH/c24-22-23(25)29(14-19-12-10-17-6-2-4-8-21(17)27-19)15-28(22)13-18-11-9-16-5-1-3-7-20(16)26-18;/h1-12,15H,13-14H2;1H/q+1;/p-1
